US04753951
2-(3-Methylisoxazol-5-yl)-1H-imidazo[4,5-c]quinoline hydrochloride C100
To an ethanolic solution of 300 mg of 2-(3-methylisoxazol-5-yl)-1H-imidazo[4,5-c]quinoline C45 is added ethanolic hydrogen chloride at room temperature. The mixture is evaporated and the residue is washed with acetone to give C100 as crystals melting at 248.5°-252° C. (dec.).

reactant | 2-(3-methylisoxazol-5-yl)-1H-imidazo[4,5-c]quinoline | 300 mg | CC1=NOC(=C1)C=1NC2=C(C=NC=3C=CC=CC23)N1 | C14H10N4O
reactant | hydrogen chloride | Cl | ClH
product | 2-(3-Methylisoxazol-5-yl)-1H-imidazo[4,5-c]quinoline hydrochloride | Cl.CC1=NOC(=C1)C=1NC2=C(C=NC=3C=CC=CC23)N1 | InChI=1S/C14H10N4O.ClH/c1-8-6-12(19-18-8)14-16-11-7-15-10-5-3-2-4-9(10)13(11)17-14;/h2-7H,1H3,(H,16,17);1H
